US09302989B2
5-pyrrolidin-1-ylmethyl-2,3-dihydro-1H-isoindole
To a solution of 1.90 g 5-pyrrolidin-1-ylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester (raw material; 4.96 mmol) in 5 ml dichloromethane was added 3.82 ml trifluoroacetic acid (49.6 mmol) and the reaction mixture was stirred at room temperature overnight. The trifluoroacetic acid and dichloromethane were evaporated under reduced pressure, water was added to the residue, the acidic aqueous phase extracted two times with ethyl acetate, the aqueous phase was basified with diluted NaOH and then subsequently extracted three times with dichloromethane. The dichloromethane phase was washed once with brine, dried over Na2SO4, filtered, and the solvent was removed under vacuum. The title compound was used without further purification in the next step. LCMS: m/z 203.2 (M+H).

reactant | 5-pyrrolidin-1-ylmethyl-1,3-dihydro-isoindole-2-carboxylic acid tert-butyl ester | 4.96 mmol, 1.90 g | C(C)(C)(C)OC(=O)N1CC2=CC=C(C=C2C1)CN1CCCC1 | C18H26N2O2
reactant | trifluoroacetic acid | 49.6 mmol, 3.82 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 5-pyrrolidin-1-ylmethyl-2,3-dihydro-1H-isoindole | N1(CCCC1)CC=1C=C2CNCC2=CC1 | C13H18N2
